US07833940B2
6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester (300 mg, 0.97 mmol, see U.S. Pat. No. 7,300,907 B2 for preparation) was slurried in 10 mL 1M H2SO4 plus 3 mL acetonitrile, heated to 75° C. and treated in portions with sodium nitrite (350 mg, 5 mmol) over a period of 10 minutes. After 40 minutes the mixture was cooled and the yellow precipitate was taken up in 40 mL ethyl acetate, washed with 10 mL water, washed with 10 mL brine, dried, and evaporated to give 170 mg (60% yield) 6-hydroxy-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester; MS m/z 312, 1H NMR (DMSO-d6): δ 7.49 (m, 3H), 3.95 (s, 3H), 3.86 (s, 3H)

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC(=C1)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H11ClFN3O3
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
reactant | sodium nitrite | 5 mmol, 350 mg | N(=O)[O-].[Na+]
solvent | H2SO4 | 1M, 10 mL | OS(=O)(=O)O | H2O4S
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 6-hydroxy-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester | 170 mg, 60% yield | COC(=O)C1=NC(=NC(=C1)O)C1=C(C(=C(C=C1)Cl)OC)F | C13H10ClFN2O4
